US08664210B2
To a stirred solution of 17β-hydroxy-4,4-dimethylandrost-5-en-3-one (408 mg) in THF (12 ml) at −15° C., under N2, was added 1M BH3.THF complex in THF (6.44 ml). The mixture was then stirred at RT overnight. H2O (5 ml) was cautiously added dropwise followed by NaBO3.4H2O (330 mg). After stirring at RT overnight, the mixture was filtered. The solid was washed with THF and then discarded. The liquid phases were separated and the aqueous layer was saturated with NaCl and extracted with THF (3×200 ml). The combined organic extracts were dried over NaCl and Na2SO4, filtered and evaporated to dryness. The crude product was purified by flash chromatography (SiO2, DCM/MeOH 97/3) to give 4,4-dimethylandrostan-3β,6α,17β-triol (137 mg, 32%).

reactant | 17β-hydroxy-4,4-dimethylandrost-5-en-3-one | 408 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C(C(CC[C@]3(C)[C@H]1CC2)=O)(C)C | C21H32O2
reactant | H2O | 5 ml | O | H2O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 6.44 ml | C1CCOC1 | C4H8O
product | 4,4-dimethylandrostan-3β,6α,17β-triol | 137 mg, 32% | CC1(C2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC[C@@H]1O)C)O)O)C | C21H36O3
